US05177087
1-Benzyl-4-[2-(4-pyrrolidinobenzoyl)ethyl]piperidine
A mixture consisting of 0.5 g of 1-benzyl-4-[2-(4-fluorobenzoyl)ethyl]piperidine and 2 ml of pyrrolidine was heated at 150° C. for 24 hours and the reaction mixture was subjected to distribution between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried and the solvent was distilled off. The residue was recrystallized from ethyl acetate to give 0.7 g of colorless crystals melting at 144°-145° C.

reactant | 1-benzyl-4-[2-(4-fluorobenzoyl)ethyl]piperidine | 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC(C1=CC=C(C=C1)F)=O | C21H24FNO
reactant | pyrrolidine | 2 ml | N1CCCC1 | C4H9N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-[2-(4-pyrrolidinobenzoyl)ethyl]piperidine | 0.7 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC(C1=CC=C(C=C1)N1CCCC1)=O | C25H32N2O
